US06011028
Example 300 A) cis and trans-5-[(1,3-dioxolan-2-yl)methyl]-4-(methyl)pyrrolidin-2-one was prepared in the manner described (R. Ohrlein, W. Schwab, R. Ehrler, V. Jager, Synthesis 1986, 535-538) starting with 1,1-dimethoxy-3-nitropropane and methyl crotonate.

reactant | 1,1-dimethoxy-3-nitropropane | COC(CC[N+](=O)[O-])OC | C5H11NO4
reactant | methyl crotonate | C(\C=C\C)(=O)OC | C5H8O2
product | trans-5-[(1,3-dioxolan-2-yl)methyl]-4-(methyl)pyrrolidin-2-one | O1C(OCC1)C[C@H]1[C@@H](CC(N1)=O)C | C9H15NO3
